US06403779B1
2′-O-(methoxyethyl)-5-methyluridine
5′-O-t-Butyldiphenylsilyl-2′-O-(methoxyethyl)-5-methyluridine is treated with TBAF as per the procedure of Example 8 above to give the title compound.

reactant | 5′-O-t-Butyldiphenylsilyl-2′-O-(methoxyethyl)-5-methyluridine | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)NC(=O)C(=C1)C)OCCOC)O | C29H38N2O7Si
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
product | 2′-O-(methoxyethyl)-5-methyluridine | COCCO[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)NC(=O)C(=C1)C | C13H20N2O7
